US03965113
2 G. of 1-amino-2-nitro-4-thiocyanatobenzene is mixed with 6 ml. of concentrated hydrochloric acid and the mixture cooled to about -40°C. A solution of 12 g. stannous chloride in 6 ml. concentrated hydrochloric acid is added dropwise and the mixture allowed to warm slowly to room temperature. After 15-20 minutes at 15°-20°C, the product is filtered off and washed with 12 ml. 6N hydrochloric acid. Treatment with 25 ml. of saturated potassium bicarbonate solution and extraction with chloroform gives the free base. Recrystallization from benzene yields 1,2-diamino-4-thiocyanatobenzene.

reactant | 1-amino-2-nitro-4-thiocyanatobenzene | NC1=C(C=C(C=C1)SC#N)[N+](=O)[O-] | C7H5N3O2S
reactant | hydrochloric acid | Cl | ClH
product | 1,2-diamino-4-thiocyanatobenzene | NC1=C(C=C(C=C1)SC#N)N | C7H7N3S
